US05478858
A mixture of N-(1-tert-butoxycarbonyl-4-methyl-5-benzimidazolyl)-N'-2-aminoethylthiourea (2.89 g) and mercuric acetate (3.32 g) in methanol (200 mL)/chloroform (100 mL) is stirred at room temperature for 2 hours. The resulting black mixture is filtered on Celite and the filtrate rotary evaporated. The residue is purified by flash chromatography on a short pad of silica gel, eluting with 10% methanol/chloroform containing 1% ammonium hydroxide. The product-containing fractions are collected and rotary evaporated to afford 1-tert-butoxycarbonyl-4-methyl-5-(2-imidazolinylamino)benzimidazole as a white solid.

reactant | N-(1-tert-butoxycarbonyl-4-methyl-5-benzimidazolyl)-N'-2-aminoethylthiourea | 2.89 g | C(C)(C)(C)OC(=O)N1C=NC2=C1C=CC(=C2C)NC(=S)NCCN | C16H23N5O2S
reactant | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 200 mL | CO | CH4O
product | 1-tert-butoxycarbonyl-4-methyl-5-(2-imidazolinylamino)benzimidazole | C(C)(C)(C)OC(=O)N1C=NC2=C1C=CC(=C2C)NN2C=NCC2 | C16H21N5O2
